### PR TITLE
[Merged by Bors] - chore(Order/WithBot): golf, clean up

### PR DESCRIPTION
**Pull request by YaelDillies**
* Shorten proofs
* Make the `WithBot` and `WithTop` sections analogous
* Avoid relying on the defeq `(WithTop α)ᵒᵈ = WithBot αᵒᵈ`
* Pull more implicit variables to `variable` statements
* Stick to the convention that `a b : α` and `x y : WithBot α`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/WithBot.lean [hunk 1]
```diff
@@ -525,26 +422,15 @@ theorem lt_iff_exists_coe_btwn [Preorder α] [DenselyOrdered α] [NoMinOrder α]
...
-    apply recBotCoe
-    · exact ‹Nonempty α›.elim fun a => ⟨a, not_coe_le_bot a⟩
-
-    · intro a
-      obtain ⟨b, h⟩ := exists_not_le a
-      exact ⟨b, by rwa [coe_le_coe]⟩
-      ⟩
+instance noTopOrder [LE α] [NoTopOrder α] [Nonempty α] : NoTopOrder (WithBot α) where
+  exists_not_le := fun
+    | ⊥ => ‹Nonempty α›.elim fun a ↦ ⟨a, by simp⟩
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean:427]: This seems a bit cleaner (if it works)
```suggestion
    | ⊥ => Nonempty.elim fun a : α ↦ ⟨a, by simp⟩
```

File: Mathlib/Order/WithBot.lean [hunk 2]
```diff
@@ -1122,104 +774,111 @@ theorem strictMono_map_iff {f : α → β} : StrictMono (WithTop.map f) ↔ Stri
...
+
+lemma le_of_forall_lt_iff_le : (∀ b : α, x < b → y ≤ b) ↔ y ≤ x := by
+  cases x <;> cases y <;> simp [exists_gt, forall_gt_imp_ge_iff_le_of_dense]
+
+lemma ge_of_forall_gt_iff_ge : (∀ a : α, a < x → a ≤ y) ↔ x ≤ y := by
+  cases x <;> cases y <;> simp [exists_gt, forall_lt_imp_le_iff_le_of_dense]
+
+end LinearOrder
+
+instance instWellFoundedLT [LT α] [WellFoundedLT α] : WellFoundedLT (WithTop α) where
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean:860]: This proof is much larger than the previous one - I think the def-eq can stay.

If you still want to be proper about it, you could give `WithBot (αᵒᵈ) ≃o WithTop α` as an order isomorphism, and use `RelEmbedding.isWellFounded`.

File: Mathlib/Order/WithBot.lean [hunk 3]
```diff
@@ -1122,104 +774,111 @@ theorem strictMono_map_iff {f : α → β} : StrictMono (WithTop.map f) ↔ Stri
...
+        | (b : α), hlt => ih _ (coe_lt_coe.1 hlt)
+  .intro fun
+    | (a : α) => acc_some a
+    | ⊤ => .intro _ fun | (b : α), _ => acc_some b
 
 open OrderDual
 
-instance instWellFoundedGT [LT α] [WellFoundedGT α] : WellFoundedGT (WithTop α) :=
-  inferInstanceAs <| WellFoundedGT (WithBot αᵒᵈ)ᵒᵈ
+instance instWellFoundedGT [LT α] [WellFoundedGT α] : WellFoundedGT (WithTop α) where
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean:872]: Same as above.

File: Mathlib/Order/WithBot.lean [hunk 4]
```diff
@@ -1122,104 +774,111 @@ theorem strictMono_map_iff {f : α → β} : StrictMono (WithTop.map f) ↔ Stri
...
+theorem coe_top_lt [OrderTop α] : (⊤ : α) < x ↔ x = ⊤ := by cases x <;> simp
 
-lemma forall_gt_iff_eq_top {x : WithTop α} : (∀ y : α, y < x) ↔ x = ⊤ :=
-  WithBot.forall_lt_iff_eq_bot (α := αᵒᵈ)
+lemma forall_gt_iff_eq_top : (∀ a : α, a < y) ↔ y = ⊤ := by
+  cases y <;> simp; simpa using ⟨_, lt_irrefl _⟩
 
-lemma forall_ge_iff_eq_top [NoMaxOrder α] {x : WithTop α} : (∀ y : α, y ≤ x) ↔ x = ⊤ :=
-  WithBot.forall_le_iff_eq_bot (α := αᵒᵈ)
+lemma forall_ge_iff_eq_top [NoMaxOrder α] : (∀ a : α, a ≤ y) ↔ y = ⊤ := by
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean:788]: This proof is also long enough that I question the gain from removing the def-eq.

File: Mathlib/Order/WithBot.lean [hunk 5]
```diff
@@ -1230,22 +889,28 @@ instance trichotomous.gt [Preorder α] [IsTrichotomous α (· > ·)] :
...
 instance _root_.WithBot.isWellOrder.gt [Preorder α] [h : IsWellOrder α (· > ·)] :
-    IsWellOrder (WithBot α) (· > ·) :=
-  @WithTop.IsWellOrder.lt αᵒᵈ _ h
-
-instance [LT α] [DenselyOrdered α] [NoMaxOrder α] : DenselyOrdered (WithTop α) :=
-  OrderDual.denselyOrdered (WithBot αᵒᵈ)
+    IsWellOrder (WithBot α) (· > ·) where
+  trichotomous x y := by cases x <;> cases y <;> simp; simpa using trichotomous_of (· > ·) ..
+
+instance [LT α] [DenselyOrdered α] [NoMaxOrder α] : DenselyOrdered (WithTop α) where
```
Comment (vihdzp) [inline Mathlib/Order/WithBot.lean:906]: Same here: this should either keep the def-eq or reason through an order isomorphism.

**Review by vihdzp — COMMENTED** [review]
If only we had a `to_order_dual` tactic to generate all the `WithTop` proofs automatically...

**Comment by YaelDillies** [comment]
Violeta, the context is that I am removing the defeq in #19668, so I am happy to revert changes here and there, but they will likely be done eventually.

File: Mathlib/Order/WithBot.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:427]: `Nonempty` is an explicit argument to `Nonempty.elim`

File: Mathlib/Order/WithBot.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:788]: Reverted (for now)

File: Mathlib/Order/WithBot.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:860]: Reverted (for now)

File: Mathlib/Order/WithBot.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:872]: Reverted (for now)

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
